US08039500B2
N,N-Diethyl-2-(mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine
To a solution of 2-(mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine (200 mg, 0.717 mmol), acetaldehyde (0.400 mL, 7.17 mmol) and acetic acid (0.330 mL, 5.78 mmol) in methanol (5.0 mL) was added sodium triacetoxyborohydride (1.52 g, 7.17 mmol) portionwise at 0° C. The mixture was warmed to room temperature and stirred for 14 hr. Saturated aqueous sodium bicarbonate solution (50 mL) was added to the mixture and the mixture was extracted with ethyl acetate (25 mL, three times). Combined organic layers were washed with saturated aqueous sodium bicarbonate solution (20 mL) and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound (237 mg, 0.707 mmol, 97%) as a colorless solid. The resulting solid was recrystallized from n-hexane/ethyl acetate to give the title compound (145 mg, 0.433 mmol).

reactant | 2-(mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine | 0.717 mmol, 200 mg | C1(=C(C(=CC(=C1)C)C)CC1=NC2=C(N1C)C(=CC=C2)N)C | C18H21N3
reactant | acetaldehyde | 7.17 mmol, 0.400 mL | C(C)=O | C2H4O
reactant | acetic acid | 5.78 mmol, 0.330 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.17 mmol, 1.52 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
product | N,N-Diethyl-2-(mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine | 0.707 mmol, 237 mg, 97% | C(C)N(C1=CC=CC2=C1N(C(=N2)CC2=C(C=C(C=C2C)C)C)C)CC | C22H29N3
